US05912244
6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran (6.5 g) (see Preparation 4) was dissolved in absolute ethanol (135 ml), then sodium tert-butoxide (7.5 g), 3-methoxybenzenethiol (3.6 g) and tetrakis(triphenylphosphine)palladium(O) (0.35 g) were added and the mixture was heated under reflux under a nitrogen atmosphere for 48 hours. Further tetrakis(triphenylphosphine)palladium(O) (0.3 g) was added and heating was continued for a further 48 hours. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane and washed with water. The organic layer was dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the crude product chromatographed on silica using 1:1 hexane: dichloromethane as the eluent to yield 6-(3-methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (7.2 g) as an oil.

reactant | 6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran | 6.5 g | BrC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C12H13BrO
reactant | sodium tert-butoxide | 7.5 g | CC(C)([O-])C.[Na+]
reactant | 3-methoxybenzenethiol | 3.6 g | COC=1C=C(C=CC1)S | C7H8OS
solvent | ethanol | 135 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.35 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 6-(3-methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 7.2 g | COC=1C=C(C=CC1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C19H20O2S
